US05231102
Trans-4-benzylamino-2-carboxy-5,7-dichloro-1,2,3,4-tetrahydroquinoline
This compound was prepared by the method given in Example 37 step b) using trans-4-benzylamino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline in place of trans-5,7-dichloro-2-methoxycarbonyl-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline to give the title compound as colourless crystals, m.p. 140°-143° C. δ (360 MHz, DMSO) 1.85 (1H, ddd, J=13.3, 12.4 and 3.0 Hz, CHACHBHCCHD), 2.73 (1H, dm, J=13.3 Hz, CHACHBHCCHD), 4.32 (2H, 2d, J=13.4 Hz, CH2C6H5), 4.46 (1H, m, CHACHBHCCHD), 4.48 (1H, m, CHACHBHCCHD), 6.70 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.90 (1H, d, J=2.1 Hz, 6-H or 8-H), 7.12 (1H, s, ArNH), 7.43 (3H, m, ArH), 7.63 (2H, m, ArH); m/e (FAB-) 349 (M-1); Found C, 50.17; H, 6.22; N, 5.01. C17H16Cl2N2O2.1.8HCl.0.2 C6H14 requires C, 50.06; H, 4.78; N, 6.45%.

reactant | trans-4-benzylamino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C18H18Cl2N2O2
solvent | DMSO | CS(=O)C | C2H6OS
product | Trans-4-benzylamino-2-carboxy-5,7-dichloro-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C17H16Cl2N2O2
